US04954507
3-HYDROXY-4-AMINOCARBONYL-1-PHENYLMETHYL PYRROLIDINE
A solution of 11.0 g (44.0 mmol) of 3-hydroxy-4-ethyloxycarbonyl-1-phenylmethyl pyrrolidine (prepared according to E. JAEGER and J. H. BIEL in J. Org. Chem. 1965, 30, (740) in 40 g of 25% ammonia in methanol was heated at 100° C. under pressure overnight. The solution was cooled and evaporated to dryness. The oily residue was purified by chromatography using dichloromethane-methanol (85:15) to yield 2.14 g (22%) of the title compound. M.P. 128° C.

reactant | 3-hydroxy-4-ethyloxycarbonyl-1-phenylmethyl pyrrolidine | 44.0 mmol, 11.0 g | OC1CN(CC1C(=O)OCC)CC1=CC=CC=C1 | C14H19NO3
reactant | ammonia | 40 g | N | H3N
solvent | methanol | CO | CH4O
product | 3-HYDROXY-4-AMINOCARBONYL-1-PHENYLMETHYL PYRROLIDINE | 2.14 g, 22% | OC1CN(CC1C(=O)N)CC1=CC=CC=C1 | C12H16N2O2
